datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])[H:5],48.0742
[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[S:6]([c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18])[H:13]>>[C:0](=[C:1]([S:2][H:13])[H:5])([H:3])[H:4].[S:6][c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],10.46
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:10])([H:11])[H:12])=[S:9],45.1872
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[O:4][O:5][H:14])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[O:4])([H:9])[H:10])([H:6])([H:7])[H:8].[O:5][H:14],6.276
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([C:8](=[C:9]([C:10]([C:11]([H:24])([H:25])[H:26])[C:12]([H:27])([H:28])[H:29])[H:23])[H:22])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([H:20])([H:21])[C:8]([H:22])=[C:9]([H:23])[C:10]1([C:11]([H:24])([H:25])[H:26])[C:12]([H:27])([H:28])[H:29])[H:13],99.4955
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:10])[H:11])([H:7])([H:8])[H:9],152.298
[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[O:3]1.[O:4][H:11],77.404
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7](=[C:6]([H:10])[H:11])[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])[H:3],43.7228
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:13])[H:18])([H:10])([H:11])[H:12],75.173928
[N:0]([N:1]([H:3])[H:4])[H:2].[O:5][N:6]=[O:7]>>[H:3][O:5][N:6]=[O:7].[N:0](=[N:1][H:4])[H:2],-60.237048
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][O:18][H:19],57.40448
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:26])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:19]([C:18]([H:26])([H:27])[H:28])([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])[H:11])[H:10],35.7732
[C:0]([C:1]1([H:12])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]2([H:12])[C:2]1([H:13])[C:3]([H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]12,40.08272
[C:1]1=[C:3]=[C:4]([H:5])[c:6]2[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]2[C:18]=1[H:20].[H:21]>>[c:1]1[c:3]([H:21])[c:4]([H:5])[c:6]2[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]2[c:18]1[H:20],0.37656
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],114.307
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19],22.1752
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([S:9][H:16])([C:10](=[S:11])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:15])[H:4].[C:7]([C:8]([S:9][H:16])[C:10](=[S:11])[H:17])([H:12])([H:13])[H:14],9.6232
